US06423708B1
4-Benzylthiomorpholin-3-one
In the same manner, 4-(3,4-dichlorobenzyl)-thiomorpholin-3-one was prepared in 89% yield from 3,4-dichlorobenzyl bromide and thiomorpholin-3-one as a white solid. M.p. 86-87° C. 1H-NMR (CDCl3, 400 MHz) d 7.38 (1H, d), 7.33 (1H, d), 7.10 (1H, dd), 4.56 (2H, s), 3.55-3.51 (2H, m), 3.37 (2H, s), 2.81-2.76 (2H, m).

reactant | 4-(3,4-dichlorobenzyl)-thiomorpholin-3-one | ClC=1C=C(CN2C(CSCC2)=O)C=CC1Cl | C11H11Cl2NOS
reactant | 3,4-dichlorobenzyl bromide | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
reactant | thiomorpholin-3-one | N1C(CSCC1)=O | C4H7NOS
product | 4-Benzylthiomorpholin-3-one | C(C1=CC=CC=C1)N1C(CSCC1)=O | C11H13NOS
